US04514416
Synthesis of 4-amidino-2-nitrophenyl acetate
To a suspension of 3.0 g of 4-amidino-2-nitrophenol methanesulfonate in 15 ml of acetic anhydride, was added 0.5 ml of methanesulfonic acid. The mixture was refluxed with stirring for 10 to 20 minutes. The crystals dissolved slowly, forming a clear yellow solution. Upon standing at room temperature, colorless crystals separated out of the solution. The crystals were ashed with ethyl ether and recrystallized from ethanol to obtain 3.0 g of colorless needle crystals of 4-amidino-2-nitrophenyl acetate methanesulfonate.

reactant | 4-amidino-2-nitrophenol methanesulfonate | 3.0 g | CS(=O)(=O)OC1=C(C=C(C=C1)C(N)=N)[N+](=O)[O-] | C8H9N3O5S
reactant | methanesulfonic acid | 0.5 ml | CS(=O)(=O)O | CH4O3S
reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-amidino-2-nitrophenyl acetate | 3.0 g | C(C)(=O)OC1=C(C=C(C=C1)C(N)=N)[N+](=O)[O-] | C9H9N3O4
